* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT DFFen VDD Q D ground CLK
** N=18 EP=5 IP=0 FDC=26
M0 7 8 Q ground nmos L=1.3e-07 W=6e-07 $X=-625 $Y=53705 $D=19
M1 D 18 7 ground nmos L=1.3e-07 W=6e-07 $X=-115 $Y=53705 $D=19
M2 8 18 ground ground nmos L=1.3e-07 W=6e-07 $X=1365 $Y=53705 $D=19
M3 ground 13 Q ground nmos L=1.3e-07 W=6e-07 $X=2900 $Y=53705 $D=19
M4 9 12 ground ground nmos L=1.3e-07 W=6e-07 $X=3410 $Y=53705 $D=19
M5 10 17 9 ground nmos L=1.3e-07 W=6e-07 $X=3920 $Y=53705 $D=19
M6 ground 7 10 ground nmos L=1.3e-07 W=6e-07 $X=4230 $Y=53705 $D=19
M7 11 16 ground ground nmos L=1.3e-07 W=6e-07 $X=4740 $Y=53705 $D=19
M8 12 17 11 ground nmos L=1.3e-07 W=6e-07 $X=5050 $Y=53705 $D=19
M9 ground 9 12 ground nmos L=1.3e-07 W=6e-07 $X=5560 $Y=53705 $D=19
M10 13 Q ground ground nmos L=1.3e-07 W=6e-07 $X=6070 $Y=53705 $D=19
M11 14 CLK 13 ground nmos L=1.3e-07 W=6e-07 $X=7550 $Y=53705 $D=19
M12 ground 12 14 ground nmos L=1.3e-07 W=6e-07 $X=7860 $Y=53705 $D=19
M13 15 9 ground ground nmos L=1.3e-07 W=6e-07 $X=8370 $Y=53705 $D=19
M14 Q CLK 15 ground nmos L=1.3e-07 W=6e-07 $X=8680 $Y=53705 $D=19
M15 ground 7 16 ground nmos L=1.3e-07 W=6e-07 $X=10160 $Y=53705 $D=19
M16 17 CLK ground ground nmos L=1.3e-07 W=6e-07 $X=10670 $Y=53705 $D=19
M17 7 18 Q VDD pmos L=1.3e-07 W=1.35e-06 $X=-635 $Y=67295 $D=25
M18 D 8 7 VDD pmos L=1.3e-07 W=1.35e-06 $X=-125 $Y=67295 $D=25
M19 8 18 VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=1355 $Y=67295 $D=25
M20 VDD 7 16 VDD pmos L=1.3e-07 W=6e-07 $X=4560 $Y=68045 $D=25
M21 17 CLK VDD VDD pmos L=1.3e-07 W=6e-07 $X=5070 $Y=68045 $D=25
M22 VDD 9 12 VDD pmos L=1.3e-07 W=6e-07 $X=6550 $Y=68045 $D=25
M23 9 12 VDD VDD pmos L=1.3e-07 W=6e-07 $X=7060 $Y=68045 $D=25
M24 VDD 13 Q VDD pmos L=1.3e-07 W=6e-07 $X=8540 $Y=68045 $D=25
M25 13 Q VDD VDD pmos L=1.3e-07 W=6e-07 $X=9050 $Y=68045 $D=25
.ENDS
***************************************
.SUBCKT test ground VDD A X Enable B CLK Y
** N=8 EP=8 IP=12 FDC=52
X0 VDD X A ground CLK DFFen $T=5 69070 0 0 $X=-2070 $Y=120805
X1 VDD Y B ground CLK DFFen $T=12860 69070 0 0 $X=10785 $Y=120805
.ENDS
***************************************
