* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT DFFen VDD Q D ground En CLK
** N=17 EP=6 IP=0 FDC=26
M0 7 8 Q ground nmos L=1.3e-07 W=6e-07 $X=-275 $Y=53705 $D=19
M1 D En 7 ground nmos L=1.3e-07 W=6e-07 $X=235 $Y=53705 $D=19
M2 8 En ground ground nmos L=1.3e-07 W=6e-07 $X=1715 $Y=53705 $D=19
M3 ground 13 Q ground nmos L=1.3e-07 W=6e-07 $X=4745 $Y=53705 $D=19
M4 9 12 ground ground nmos L=1.3e-07 W=6e-07 $X=5255 $Y=53705 $D=19
M5 10 17 9 ground nmos L=1.3e-07 W=6e-07 $X=5765 $Y=53705 $D=19
M6 ground 7 10 ground nmos L=1.3e-07 W=6e-07 $X=6075 $Y=53705 $D=19
M7 11 16 ground ground nmos L=1.3e-07 W=6e-07 $X=6585 $Y=53705 $D=19
M8 12 17 11 ground nmos L=1.3e-07 W=6e-07 $X=6895 $Y=53705 $D=19
M9 ground 9 12 ground nmos L=1.3e-07 W=6e-07 $X=7405 $Y=53705 $D=19
M10 13 Q ground ground nmos L=1.3e-07 W=6e-07 $X=7915 $Y=53705 $D=19
M11 14 CLK 13 ground nmos L=1.3e-07 W=6e-07 $X=9395 $Y=53705 $D=19
M12 ground 12 14 ground nmos L=1.3e-07 W=6e-07 $X=9705 $Y=53705 $D=19
M13 15 9 ground ground nmos L=1.3e-07 W=6e-07 $X=10215 $Y=53705 $D=19
M14 Q CLK 15 ground nmos L=1.3e-07 W=6e-07 $X=10525 $Y=53705 $D=19
M15 ground 7 16 ground nmos L=1.3e-07 W=6e-07 $X=12005 $Y=53705 $D=19
M16 17 CLK ground ground nmos L=1.3e-07 W=6e-07 $X=12515 $Y=53705 $D=19
M17 7 En Q VDD pmos L=1.3e-07 W=1.35e-06 $X=-285 $Y=67295 $D=25
M18 D 8 7 VDD pmos L=1.3e-07 W=1.35e-06 $X=225 $Y=67295 $D=25
M19 8 En VDD VDD pmos L=1.3e-07 W=1.35e-06 $X=1705 $Y=67295 $D=25
M20 VDD 7 16 VDD pmos L=1.3e-07 W=6e-07 $X=6405 $Y=68045 $D=25
M21 17 CLK VDD VDD pmos L=1.3e-07 W=6e-07 $X=6915 $Y=68045 $D=25
M22 VDD 9 12 VDD pmos L=1.3e-07 W=6e-07 $X=8395 $Y=68045 $D=25
M23 9 12 VDD VDD pmos L=1.3e-07 W=6e-07 $X=8905 $Y=68045 $D=25
M24 VDD 13 Q VDD pmos L=1.3e-07 W=6e-07 $X=10385 $Y=68045 $D=25
M25 13 Q VDD VDD pmos L=1.3e-07 W=6e-07 $X=10895 $Y=68045 $D=25
.ENDS
***************************************
.SUBCKT test ground VDD B Y Enable A CLK X
** N=8 EP=8 IP=12 FDC=52
X0 VDD Y B ground Enable CLK DFFen $T=0 0 0 0 $X=-1725 $Y=51735
X1 VDD X A ground Enable CLK DFFen $T=16000 0 0 0 $X=14275 $Y=51735
.ENDS
***************************************
